US07205302B2
1-(benzyloxy)-3-{2-[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]ethyl}benzene
In the same manner as in the step 1 of Example 9, except that 2-chloro-5,6-diphenylpyrazine was used in place of 2-chloro-5,6-di-p-tolylpyrazine and 1-[3-(benzyloxy)phenyl]-2-(methylamino)ethane was used in place of 4-(methylamino)-1-butanol, the desired compound was prepared as a pale yellow crystal having a melting point of 78 to 78.5° C.

reactant | 2-chloro-5,6-diphenylpyrazine | ClC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | 1-[3-(benzyloxy)phenyl]-2-(methylamino)ethane | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCNC | C16H19NO
product | 1-(benzyloxy)-3-{2-[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]ethyl}benzene | C(C1=CC=CC=C1)OC1=CC(=CC=C1)CCN(C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H29N3O
